US04609650
16β-Ethyl-17β-(2-methylvaleryl)oxyacetoxy-4-estren-3-one
In 20 ml of dichloromethane are dissolved 0.5 g of 16β-ethyl-17β-glycoloyloxy-4-estren-3-one and 0.2 ml of N,N-dimethylaniline, and 0.5 g of 2-methylvaleryl chloride is added to the above solution. The mixture is refluxed for 6 hours. After cooling, the reaction mixture is diluted with 150 ml of ethyl acetate and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to column chromatography. Following passage of 200 ml of diisopropyl ether-n-hexane (2:8), elution is carried out with 500 ml of a 1:1 mixture of the same solvents. The eluate is evaporated under reduced pressure to remove the solvent, giving 0.126 g of the above-identified compound as a light-yellow viscous oil.

reactant | 16β-ethyl-17β-glycoloyloxy-4-estren-3-one | 0.5 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CO)=O | C22H32O4
reactant | N,N-dimethylaniline | 0.2 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-methylvaleryl chloride | 0.5 g | CC(C(=O)Cl)CCC | C6H11ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 16β-Ethyl-17β-(2-methylvaleryl)oxyacetoxy-4-estren-3-one | 0.126 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(C(CCC)C)=O)=O | C28H42O5
